US06608203B2
2,2,2-Trifluoro-1-(6-methoxy-1-phenyl-3,4-dihydro-1H-isoquinolin-2-yl)ethanone
Trifluoroacetic anhydride (0.089 ml, 0.627 mmol) was added to a solution of 6-methoxy-1-phenyl-1,2,3,4-tetrahydoisoquinoline (0.150 g, 0.627 mmol) and Et3N (0.174 ml, 1.25 mmol) in anhydrous CH2Cl2 (20 ml) at 0° C. under N2. The resulting solution was warmed to rt and stirred at rt for 68 hr, washed with 1M HCl (5 ml), then with sat. NaHCO3 solution (5 ml), dried over MgSO4, and concentrated in vacuo to give 0.216 g of colorless oil. Purification by flash chromatography, eluting with hexane:EtOAc (19:1) gave 0.188 g (89% yield) of colorless oil.

reactant | Trifluoroacetic anhydride | 0.627 mmol, 0.089 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 6-methoxy-1-phenyl-1,2,3,4-tetrahydoisoquinoline | 0.627 mmol, 0.150 g | COC=1C=C2CCNC(C2=CC1)C1=CC=CC=C1 | C16H17NO
reactant | Et3N | 1.25 mmol, 0.174 ml | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 2,2,2-Trifluoro-1-(6-methoxy-1-phenyl-3,4-dihydro-1H-isoquinolin-2-yl)ethanone | 0.216 g | FC(C(=O)N1C(C2=CC=C(C=C2CC1)OC)C1=CC=CC=C1)(F)F | C18H16F3NO2
